US06582351B1
To a solution of 3-cyano-4-methoxybenzyl alcohol (500 mg) in dichloromethane (5 mL) was added phosphorus tribromide (0.146 mL) under ice-water cooling. The mixture was stirred at 0° C. for 3 hours and partitioned between chloroform and water. The separated organic layer was washed successively with water, an aqueous saturated sodium bicarbonate solution and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residual solid was triturated with diisopropyl ether to give 3-cyano-4-methoxybenzyl bromide as an off-white solid (456.3 mg).

reactant | 3-cyano-4-methoxybenzyl alcohol | 500 mg | C(#N)C=1C=C(CO)C=CC1OC | C9H9NO2
reactant | phosphorus tribromide | 0.146 mL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-cyano-4-methoxybenzyl bromide | 456.3 mg | C(#N)C=1C=C(CBr)C=CC1OC | C9H8BrNO
